US05869500
4.00 g (23.9 mmol) of 4-chloro-1-methyl-1H-imidazo[4,5-c]pyridine in 27 ml of dimethylformamide were stirred at 115° C. for 18 hours with 8.10 g (95.6 mmol) of sodium hydrogen sulphide hydrate. After cooling the mixture was treated with 110 ml of water, adjusted to pH 4 with acetic acid and stirred at 5° C. while cooling with ice for 15 min. The precipitate was filtered off and washed with water. After drying there were obtained 3.73 g (95%) of 1-methyl-1,5-dihydro-imidazo[4,5-c]pyridine-4-thione as white crystals with m.p. >300° C.

reactant | 4-chloro-1-methyl-1H-imidazo[4,5-c]pyridine | 23.9 mmol, 4.00 g | ClC1=NC=CC2=C1N=CN2C | C7H6ClN3
reactant | sodium hydrogen sulphide hydrate | 95.6 mmol, 8.10 g | O.S.[Na]
reactant | water | 110 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 27 ml | CN(C=O)C | C3H7NO
product | 1-methyl-1,5-dihydro-imidazo[4,5-c]pyridine-4-thione | 3.73 g, 95% | CN1C=NC=2C(NC=CC21)=S | C7H7N3S
